US05847122
(2S,3R)-3-(4-Methylphenyl)-2,3-epoxypropionamide and 2-amino-5-methylthiophenol are treated in the same manner as in Reference Example 1-(2) to give (2R,3R)-3-(2-amino-5-methylphenylthio)-2-hydroxy-3-(4-methylphenyl)propionamide.

reactant | (2S,3R)-3-(4-Methylphenyl)-2,3-epoxypropionamide | CC1=CC=C(C=C1)[C@@H]1[C@@H](C(=O)N)O1 | C10H11NO2
reactant | 2-amino-5-methylthiophenol | NC1=C(C=C(C=C1)C)S | C7H9NS
product | (2R,3R)-3-(2-amino-5-methylphenylthio)-2-hydroxy-3-(4-methylphenyl)propionamide | NC1=C(C=C(C=C1)C)S[C@@H]([C@@H](C(=O)N)O)C1=CC=C(C=C1)C | C17H20N2O2S
